US08193198B2
Synthesis of 3-(2-chloropropionylamino)propionic acid methyl ester
Triethylamine (1.63 g) was added to a suspension of β-alanine methyl ester hydrochloride (2.25 g) in dichloromethane (10 mL) and the reaction mixture was stirred for 30 minutes. After addition of pyridine (1.27 g) the reaction mixture was cooled to 0° C. A solution of 2-chloropropionyl chloride (2.04 g) in dichloromethane (10 mL) was added dropwise for 20 minutes. The reaction mixture was stirred for 2 hours, washed sequentially with water, 1 N hydrochloric acid and saturated sodium bicarbonate, dried with magnesium sulfate, filtered, and concentrated to give yellow oil (2.9 g, yield 93%).

reactant | Triethylamine | 1.63 g | C(C)N(CC)CC | C6H15N
reactant | β-alanine methyl ester hydrochloride | 2.25 g | Cl.COC(CCN)=O
reactant | pyridine | 1.27 g | N1=CC=CC=C1 | C5H5N
reactant | 2-chloropropionyl chloride | 2.04 g | ClC(C(=O)Cl)C | C3H4Cl2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(2-chloropropionylamino)propionic acid methyl ester | 2.9 g, yield 93% | COC(CCNC(C(C)Cl)=O)=O | C7H12ClNO3
